US05597826
7-(4-Chlorobenzamido)-1-(4-propyl-1-piperazin yl)-naphthalene
A mixture of 7-(4-chlorobenzamido)-1-(1-piperazinyl)-naphthalene (0.20 g, 0.547 mmol, the product of Example 12), propionaldehyde (0.041 mL, 0.563 mmol) and sodium cyanoborohydride (0.103 g, 1.64 mmol)in methanol (12 mL) and acetic acid (1.2 mL) was stirred at ambient temperature for 20 hours. The solvent was removed at reduced pressure and the residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate. Phases were separated and the organic layer was washed with brine, dried, concentrated onto silica gel and flash chromatographed (1×3 inches). Elution proceeded as follows: ethyl acetate (50 mL) unweighed forrun; ethyl acetate (250 mL) 0.164 g of yellow foam. The foam was triturated with pentane and 0.079 g (28%) of the title compound was collected as a white solid. mp 130°-132° C. Analysis calculated for C24H26ClN3O: C, 70.66; H, 6.42; N, 10.30. Found: C, 70.91; H, 6.66; N, 10.50.

reactant | 7-(4-chlorobenzamido)-1-(1-piperazinyl)-naphthalene | ClC1=CC=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCNCC2)C=C1 | C21H20ClN3O
reactant | propionaldehyde | 0.563 mmol, 0.041 mL | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | 1.64 mmol, 0.103 g | C(#N)[BH3-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
product | 7-(4-Chlorobenzamido)-1-(4-propyl-1-piperazin yl)-naphthalene | ClC1=CC=C(C(=O)NC2=CC=C3C=CC=C(C3=C2)N2CCN(CC2)CCC)C=C1 | C24H26ClN3O
